US07671201B2
Step B Synthesis of tert-butyl 4-(2,6-dichloro-4-hydroxyphenyl)piperazinecarboxylate as an Intermediate
This compound was prepared in a manner analogous to that of Example 2 Step B, by the reaction of 3.7 grams (0.01 mole) of tert-butyl 4-(2,6-dichloro-4-methoxyphenyl)piperazinecarboxylate and 1.8 grams (0.025 mole) of sodium methanethiolate in 150 mL of DMF. The crude reaction product was purified with column chromatography on silica gel using 50% hexane in methylene chloride, 100% methylene chloride and finally 20% methanol in methylene chloride as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.88 gram of the subject compound. The NMR spectrum was consistent with the proposed structure. The reaction was repeated to obtain additional material for the next reactive step.

reactant | tert-butyl 4-(2,6-dichloro-4-methoxyphenyl)piperazinecarboxylate | 0.01 mole, 3.7 grams | ClC1=C(C(=CC(=C1)OC)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22Cl2N2O3
reactant | sodium methanethiolate | 0.025 mole, 1.8 grams | C[S-].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2,6-dichloro-4-hydroxyphenyl)piperazinecarboxylate | 0.88 gram | ClC1=C(C(=CC(=C1)O)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20Cl2N2O3
